US06417200B1
B) N1-[(3-amino-1,2-benzisoxazol-7-yl)carbonyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine
To a suspension of potassium t-butoxide (92 mg, 0.82 mmol) in DMF (5 mL) was added acetone oxime hydrochloride (60 mg, 0.82 mmol). After 1 h, N1-(2-fluoro-3-cyanobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine (290 mg, 0.74 mmol) was added. After another 2 h, potassium t-butoxide (92 mg, 0.82 mmol) and acetone oxime hydrochloride (60 mg, 0.82 mmol) were added. After 12 h, the reaction was concentrated and the residue was dissolved in ethyl acetate and washed with water (2×), brine, MgSO4 dried, and concentrated. The resulting solid was dissolved in ethanol (35 mL), 5% HCl (35 mL) was added, and the mixture was refluxed for 1 h. The reaction was cooled, concentrated to 2 mL, diluted with ethyl acetate (250 mL), and neutralized with satd aq NaHCO3. The organic layer was washed with satd aq NaHCO3 (2×) and brine, MgSO4 dried, concentrated and crystallized to give the title compound as an off-white solid (106 mg, 35%); MS(FD): 402.1.

reactant | potassium t-butoxide | 0.82 mmol, 92 mg | CC(C)([O-])C.[K+]
reactant | acetone oxime hydrochloride | 0.82 mmol, 60 mg | Cl.CC(C)=NO
reactant | N1-(2-fluoro-3-cyanobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 0.74 mmol, 290 mg | FC1=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC=C1C#N | C22H16FN3O3
reactant | potassium t-butoxide | 0.82 mmol, 92 mg | CC(C)([O-])C.[K+]
reactant | acetone oxime hydrochloride | 0.82 mmol, 60 mg | Cl.CC(C)=NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N1-[(3-amino-1,2-benzisoxazol-7-yl)carbonyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 106 mg, 35% | NC1=NOC2=C1C=CC=C2C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O | C22H18N4O4
